US07022725B2
A mixture of 3-[5-(4-chloro-3-fluorophenyl)-4-isoxazolyl]propionic acid (5.08 g), conc. sulfuric acid (0.1 ml) and methanol (100 ml) was refluxed for 4 hr. The reaction mixture was concentrated, water was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[5-(4-chloro-3-fluorophenyl)-4-isoxazolyl]propionate (5.25 g, yield 98%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 53–54° C.

reactant | 3-[5-(4-chloro-3-fluorophenyl)-4-isoxazolyl]propionic acid | 5.08 g | ClC1=C(C=C(C=C1)C1=C(C=NO1)CCC(=O)O)F | C12H9ClFNO3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | methyl 3-[5-(4-chloro-3-fluorophenyl)-4-isoxazolyl]propionate | 5.25 g, yield 98% | ClC1=C(C=C(C=C1)C1=C(C=NO1)CCC(=O)OC)F | C13H11ClFNO3
